US07238711B1
L-Glutamine (14.62 g, 0.1 mol) and KOH (11.2 g, 0.2 mol) were dissolved in water (200 mL) at 20° C. A solution of 10-undecenoyl chloride (20.3 g, 0.1 mol) in THF (200 mL) was then added over 10 minutes. The reaction was stirred for 16 hours at 20° C. and was then reduced in vacuo to a volume of approximately 250 mL. Concentrated HCl (circa 12M) was added dropwise until the solution was pH 1. The white solid precipitate was collected by filtration. This solid was washed with water (100 mL) and diethyl ether (100 mL). The solid was then dissolved in refluxing toluene (500 mL) and the excess water present was removed by distillation at ambient pressure using a Dean-Stark trap. The solution was then allowed to cool to 20° C. After 16 hours, the white solid precipitate was collected via filtration and recrystallized from EtOAc (500 mL). This solid was dried in vacuo to give N-α-undec-10-enoyl-glutamic acid (9.36 g, 30%) as a white powder.

reactant | L-Glutamine | 0.1 mol, 14.62 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | KOH | 0.2 mol, 11.2 g | [OH-].[K+]
reactant | 10-undecenoyl chloride | 0.1 mol, 20.3 g | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
reactant | HCl | circa 12M | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-α-undec-10-enoyl-glutamic acid | 9.36 g, 30% | C(CCCCCCCCC=C)(=O)N[C@@H](CCC(=O)O)C(=O)O | C16H27NO5
